US06362210B1
Trans-3-(naphth-2-yl)-acrylic acid-N-(2-carboxy-4-fluoro-phenyl)-amide
Prepared analogously to Example 31 from trans-3-(naphth-2-yl)-acrylic acid chloride and 2-amino-5-fluoro-benzoic acid in tetrahydrofuran with the addition of triethylamine.

reactant | trans-3-(naphth-2-yl)-acrylic acid chloride | C1=C(C=CC2=CC=CC=C12)/C=C/C(=O)Cl | C13H9ClO
reactant | 2-amino-5-fluoro-benzoic acid | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Trans-3-(naphth-2-yl)-acrylic acid-N-(2-carboxy-4-fluoro-phenyl)-amide | C(=O)(O)C1=C(C=CC(=C1)F)NC(\C=C\C1=CC2=CC=CC=C2C=C1)=O | C20H14FNO3
